* C:\Users\santi\OneDrive - UTN.BA\UTN\4. Cuarto Año\Teoría de los Circuitos II\GitHub\tc2_2023\TP_Laboratorio\simulaciones\spice\pasabanda_uaf42.asc
XU2 N004 N007 N001 opamp Aol=100K GBW=10Meg
XU3 N002 0 Vo opamp Aol=100K GBW=10Meg
XU4 N006 0 N005 opamp Aol=100K GBW=10Meg
RG Vi N007 50k
R4 Vo N007 50k
R2 N001 N004 50k
R1 N005 N004 50k
C1 Vo N002 1000pF
C2 N005 N006 1000pf
Rf1 N002 N001 10k
Rf2_1 N003 Vo 68k
V1 Vi 0 AC 1 0
Rq_1 N007 N008 220
Rq_2 N008 0 3.9k
Rf2_2 N003 N006 2.2k
.lib opamp.sub
.ac dec 10000 10 1Meg
* Circuito interno UAF42
* Filtro Pasabanda con UAF42
* TP de Laboratorio N°1 - TC2 2023
.backanno
.end
