* C:\Users\santi\OneDrive - UTN.BA\UTN\4. Cuarto Año\Teoría de los Circuitos II\GitHub\tc2_2023\TrabajoSemanal5\spice\pasaalto_notch.asc
C0 N003 N004 {C1}
R0 N003 0 {R}
C1 N001 N005 {C2}
R1 N001 0 {R01}
R5 N007 N005 {R}
R2 N006 N001 {R}
R3 N002 N006 {R}
R4 Vo N002 {R}
C2 N007 Vo {C2}
XU1 N002 N007 N006 opamp Aol=100K GBW=10Meg
XU2 N002 N001 Vo opamp Aol=100K GBW=10Meg
V1 N004 0 AC 1 0
XU3 N005 N003 N005 opamp Aol=100K GBW=10Meg
.lib opamp.sub
.ac dec 10000 0.01 10k
.param R={1} w0={2*pi*300} Q={9/8}
.param C1= {1/w0/R}
.param R01={Q*R} C2={1/w0/R}
* Para la segunda sección, tengo R1, R2 y R como grados de\nlibertad. Elijo R=R2=norma de impedancia
.backanno
.end
