* C:\users\santi\Documents\tc2_2023\TrabajoSemanal_10\spice\pasaalto_notch.asc
V1 N001 0 AC 1 0
R§Z1 N002 N001 {8/15}
R1 N004 N002 {52/35}
R§Z2 N002 N003 {289/469}
R2 N003 N005 {21420/31423}
R§Z3 0 N003 {765/871}
C1 N004 0 {35/312}
C2 N005 0 {4489/10710}
.ac dec 10000 0.001 10k
.backanno
.end
